US05288750
3-Benzylidene-2,4-pentanedione
To a solution containing 6.3 g of 3-benzyl-2,4-pentanedione in 50 ml of dichloromethane was gradually added 5.3 g of bromine in 20 ml of dichloromethane under cooling (0°-5° C.). The solution was stirred for 10 min. at 0° C. and the solvent evaporated in vacuo. The residue was dissolved in 100 ml of pyridine and refluxed for 30 min. Pyridine was evaporated in vacuo, the residue was dissolved in dichloromethane and washed first with 6M hydrochloric acid and then with 2.6M NaOH. The solvent was evaporated and the residue distilled in vacuo. Bp 186°-188° C./16 mm, yield 1.2 g.

reactant | 3-benzyl-2,4-pentanedione | 6.3 g | C(C1=CC=CC=C1)C(C(C)=O)C(C)=O | C12H14O2
reactant | bromine | 5.3 g | BrBr | Br2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-Benzylidene-2,4-pentanedione | C(C1=CC=CC=C1)=C(C(C)=O)C(C)=O | C12H12O2
